US08357711B2
(3R*,4S*)-4-(4-Fluorophenyl)tetrahydrofuran-3-ol
1.6M BuLi/hexane (399 mL, 0.64 mol, 1.10 eq) was added to a solution of 1-bromo-4-fluorobenzene (70 mL, 0.64 mol, 1.10 eq) in absolute THF (400 mL) in a stream of argon at −90° C. for 1 h. The mixture was stirred at −90° C. for 30 min, cooled to −100° C., and 3,6-dioxabicyclo[3.1.0]hexane (50 g, 0.58 mol, 1 eq) was added. The mixture was stirred at −100° C. for 15 min, and borontrifluoride diethyletherate (81 mL, 0.64 mol, 1.10 eq) was added at the same temperature for 1 h so that the temperature was no higher than −80° C. The reaction mixture was heated to 0° C. for 3 h and diluted with hexane (300 mL) and water (300 mL). 10N sodium hydroxide (50 mL) was added, and the layers were separated. The aqueous layer was extracted with ether. The organic layer was washed with the saturated sodium chloride solution, dried over sodium sulfate, and evaporated. The mixture was subjected to chromatography on silica (1 L, carbon tetrachloride→25, 50, 75, 100% chloroform) to give title compound as a yellow oil (42 g, 0.23 mol, 39.7%).

reactant | BuLi hexane | 0.64 mol, 1.6M, 399 mL, 1.10 eq | [Li]CCCC.CCCCCC
reactant | 1-bromo-4-fluorobenzene | 0.64 mol, 70 mL, 1.10 eq | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 3,6-dioxabicyclo[3.1.0]hexane | 0.58 mol, 50 g, 1 eq | C12COCC2O1 | C4H6O2
reactant | borontrifluoride | B(F)(F)F | BF3
reactant | sodium hydroxide | 10N, 50 mL | [OH-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | hexane | 300 mL | CCCCCC | C6H14
solvent | water | 300 mL | O | H2O
product | (3R*,4S*)-4-(4-Fluorophenyl)tetrahydrofuran-3-ol | 0.23 mol, 42 g, 39.7% | FC1=CC=C(C=C1)[C@@H]1[C@H](COC1)O | C10H11FO2
